US04010177
In the manner given in Preparation 10, 7 -nitro-5(o-chlorophenyl)-3H-1,4-benzodiazepin-2-yl hydrazine is reacted with bromoacetyl bromide and after 1.5 hours with sodium acetate, then refluxed to give 8-nitro-1(bromomethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine. Preparation 15 1-(Chloromethyl)-7-(trifluoromethyl)-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 7 -nitro-5(o-chlorophenyl)-3H-1,4-benzodiazepin-2-yl hydrazine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC(=N2)NN)C2=C(C=CC=C2)Cl)C1 | C15H12ClN5O2
reactant | bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 8-nitro-1(bromomethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C(=NN3)CBr)C3=C(C=CC=C3)Cl)C1 | C17H11BrClN5O2
